US07638515B2
2-(4-Chloro-3-methoxyphenyl)-2-methylpropanal
25 g (119.23 mmol) of the above-described nitrile is dissolved in 475 ml of toluene. At −65° C. to −60° C., 149 ml of a 1.2 molar solution of DIBAH in toluene is added in drops within 60 minutes. After two hours of stirring at this temperature, the dropwise addition of 681 ml of a 20% L-(+)-tartaric acid solution is begun. After 200 milliliters, the temperature is increased to −10° C. The remainder of the tartaric acid solution is quickly added, and the batch is vigorously stirred for 16 hours at room temperature. The reaction mixture is shaken twice with 600 ml each of diethyl ether. The combined organic extracts are shaken with water and brine, dried, and the solvent is spun off. The residue that is obtained (25 g=98.8%) is incorporated in crude form into the next stage.

reactant | DIBAH | CC(C)C[AlH]CC(C)C
reactant | L-(+)-tartaric acid | C([C@H](O)[C@@H](O)C(=O)O)(=O)O | C4H6O6
reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | diethyl ether | 600 ml | C(C)OCC | C4H10O
reactant | brine | [Cl-].[Na+].O
solvent | toluene | 475 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-(4-Chloro-3-methoxyphenyl)-2-methylpropanal | ClC1=C(C=C(C=C1)C(C=O)(C)C)OC | C11H13ClO2
